US07557131B2
Preparation 35: N-(6-Methoxypyridin-3-yl)-4-(2-methylphenoxy)piperidine-1-carbothioamide
5-Isothiocyanato-2-methoxypyridine [(829 mg, 4.99 mmol), J. Org. Chem. (1980), 45, 4219] was added to a solution of 4-(2-methylphenoxy)-piperidine hydrochloride [(990 mg, 4.3 mmol), J. Med. Chem. (1978), 21, 309] and N,N-diisopropylethylamine (0.79 mL, 4.7 mmol) in dichloromethane (10 mL) and the mixture was stirred for 3 hours at room temperature. The organic solution was then diluted with dichloromethane and washed with sodium hydrogen carbonate solution and brine. The organic solution was dried over magnesium sulfate and concentrated in vacuo. Trituration of the residue with diethyl ether afforded the title compound as a solid in 85% yield, 1.3 g. LRMS APCI m/z 358 [M+H]+

reactant | 5-Isothiocyanato-2-methoxypyridine | 4.99 mmol, 829 mg | N(=C=S)C=1C=CC(=NC1)OC | C7H6N2OS
reactant | 4-(2-methylphenoxy)-piperidine hydrochloride | 4.3 mmol, 990 mg | Cl.CC1=C(OC2CCNCC2)C=CC=C1
reactant | N,N-diisopropylethylamine | 4.7 mmol, 0.79 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-(6-Methoxypyridin-3-yl)-4-(2-methylphenoxy)piperidine-1-carbothioamide | 85% yield | COC1=CC=C(C=N1)NC(=S)N1CCC(CC1)OC1=C(C=CC=C1)C | C19H23N3O2S
